US04824830
3,17-bis(ethylenedioxy)-5,6α-epoxy-16α-fluoro-1β-methyl-7-methylenandrostane (431 mg) in benzene solution (40 ml), is added to a Grignard mixture prepared from magnesium (122 mg) and methyl iodide (710 mg) in diethylether (10 ml). Solvent is removed until the boiling point reaches ~78° C. Heating is then continued for a further 3 hrs. Ice and saturated ammonium chloride solution are added, the product extracted with ethyl acetate and the organic layer is evaporated in vacuo after having washed and dried it. The residue is dissolved in a 2:1 mixture of acetic acid and water (10 ml) and the solution heated for about 6 hrs at 40°-50° C. Then water is added and the product extracted with ethyl acetate. The organic layer is washed with sodium bicarbonate solution, dried and evaporated in vacuo. The residue is submitted to column chromatography thus giving pure 16α-fluoro-1β,6β-dimethyl-7-methylenandrost-4-ene-3,17-dione (275 mg).

reactant | 3,17-bis(ethylenedioxy)-5,6α-epoxy-16α-fluoro-1β-methyl-7-methylenandrostane | 431 mg | C1OC2CC34[C@H](C([C@H]5[C@@H]6C[C@]7(C([C@@]6(C)CC[C@@H]5[C@]3([C@@H](C2OC1)C)C)OCCO7)F)=C)O4 | C25H35FO5
reactant | magnesium | 122 mg | [Mg] | Mg
reactant | methyl iodide | 710 mg | CI | CH3I
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
solvent | diethylether | 10 ml | C(C)OCC | C4H10O
product | 16α-fluoro-1β,6β-dimethyl-7-methylenandrost-4-ene-3,17-dione | 275 mg | F[C@H]1C([C@]2(C)[C@@H](C1)[C@@H]1C([C@H](C3=CC(C[C@H]([C@]3(C)[C@H]1CC2)C)=O)C)=C)=O | C22H29FO2
